US07893056B2
To a vigorously stirred solution of isopropyl amine (83 μL, 1.21 mmol) in DMF (6 mL) at 0° C. was added DIPEA (0.24 mL, 1.33 mmol) followed immediately by tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (600 mg, 1.21 mmol). When the reaction was complete as determined by LCMS, the reaction mixture was diluted with diethyl ether (˜40 mL) and washed with water (3×40 mL). The combined three aqueous layers were back-extracted once with diethyl ether, and then the combined organics were dried (Na2SO4) and concentrated in vacuo. This crude product was purified by flash chromatography (Combiflash, 5-60% ethyl acetate/hexanes, 1% triethylamine) to provide tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (597 mg, 95%). LCMS: (M+H)+: 520.2.

reactant | isopropyl amine | 1.21 mmol, 83 μL | C(C)(C)N | C3H9N
reactant | DIPEA | 1.33 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.21 mmol, 600 mg | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | ˜40 mL | C(C)OCC | C4H10O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 597 mg, 95% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NC(C)C)Cl)C(=O)OC(C)(C)C | C22H35ClFN5O6
